US04450272
4'-Cyano-4-(2-pyrazinyl)-1-piperazinethiocarboxanilide
To a solution of 4.92 g. of 1-(2-pyrazinyl)piperazine in 45 ml. of anhydrous ether is added a slurry of 4.8 g. of p-cyanophenyl isothiocyanate in 45 ml. of anhydrous ether, dropwise over 10 minutes. Themixture is stirred for 30 minutes and the resulting solid collected. This solid is dissolved in a mixture of 200 ml. of benzene and 200 ml. of ethanol and then cooled. The resulting solid is collected giving 6.95 g. of the desired product, m.p. 208°-210° C.

reactant | 1-(2-pyrazinyl)piperazine | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
reactant | p-cyanophenyl isothiocyanate | C(#N)C1=CC=C(C=C1)N=C=S | C8H4N2S
solvent | ether | CCOCC | C4H10O
product | 4'-Cyano-4-(2-pyrazinyl)-1-piperazinethiocarboxanilide | C(#N)C1=CC=C(NC(=S)N2CCN(CC2)C2=NC=CN=C2)C=C1 | C16H16N6S
